US05015637
1-(3-Fluoro-4-pyridinylmethylamino)-1H-pyrrol-2-methanol
To a cold solution of 1-(3-fluoro-4-pyridinylmethylamino)-1H-pyrrol-2-carboxaldehyde (5.0 g) in 100 ml of ethanol, was added NaBH4 (2.0 g). After stirring at 5° C. for one hour, and then at ambient temperature for an additional hour, the mixture was concentrated to an oil, which was stirred with 100 ml of water for five minutes and extracted with ethyl acetate. The organic layer was washed with water and dried (saturated NaCl, anhydrous MgSO4).

reactant | 1-(3-fluoro-4-pyridinylmethylamino)-1H-pyrrol-2-carboxaldehyde | 5.0 g | FC=1C=NC=CC1CNN1C(=CC=C1)C=O | C11H10FN3O
reactant | NaBH4 | 2.0 g | [BH4-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(3-Fluoro-4-pyridinylmethylamino)-1H-pyrrol-2-methanol | FC=1C=NC=CC1CNN1C(=CC=C1)CO | C11H12FN3O
